US07498346B2
N-((R)-3-{4-[(4-Methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-3,5-dimethyl-terephthalamic acid (0.070 g, 0.12 mmol), EDCI (0.026 g, 0.13 mmol) and HOBT (0.019 g, 0.13 mmol) were combined in DMF (5 mL) to give a pale yellow solution. To this solution was added dimethylamine (2M in THF) (94 μL, 0.18 mmol) followed by DIPEA (33 μL, 0.18 mmol) and the resulting mixture was stirred at 25° C. for 16 h. Standard workup according to General Procedure C gave the crude product as a tan oil. Purification by column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 93:5:2, v/v/v) afforded N-((R)-3-{4-[(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-2,6, N′,N′-tetramethyl-terephthalamide (0.028 g, 38%) as a white foam. 1H NMR (CDCl3) δ 0.99 (d, 3H, J=6.0 Hz), 1.26 (m, 1H), 1.37 (m, 1H), 1.62 (m, 2H), 1.78-1.85 (m, 3H), 2.14 (br t, 1H), 2.33 (s+m, 8H), 2.47 (br t, 1H), 2.74 (m, 3H), 2.94 (s, 3H), 3.06 (s, 3H), 3.32-3.46 (m, 2H), 3.66 (m, 1H), 3.72 (s, 3H), 4.10 (s, 2H), 6.66 (d, 2H, J=9.0 Hz), 6.73 (d, 2H, J=9.0 Hz), 6.93 (br t, 1H), 7.02 (d, 1H, J=3.0 Hz), 7.05 (s, 2H), 8.29 (s, 1H), 8.31 (d, 1H, J=6.0 Hz). 13C NMR (CDCl3) δ 13.8, 19.2, 19.6, 29.9, 30.7, 32.8, 39.0, 39.9, 44.8, 47.6, 51.8, 56.0, 58.8, 58.9, 114.8, 119.4, 125.3, 126.4, 133.8, 134.8, 143.0, 145.4, 148.3, 149.6. ES-MS m/z 586 (M+H), 608 (M+Na). Anal. Calcd. for C35H47N5O3.0.2 CH2Cl2: C, 70.14; H, 7.93; N, 11.62. Found: C, 70.06; H, 8.03; N, 11.54.

reactant | N-((R)-3-{4-[(4-Methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-3,5-dimethyl-terephthalamic acid | 0.12 mmol, 0.070 g | COC1=CC=C(C=C1)N(C1CCN(CC1)[C@@H](CCNC(C1=C(C=C(C(=O)O)C=C1C)C)=O)C)CC=1C=NC=CC1C | C33H42N4O4
reactant | EDCI | 0.13 mmol, 0.026 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.13 mmol, 0.019 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dimethylamine | 0.18 mmol, 2M, 94 μL | CNC | C2H7N
reactant | DIPEA | 0.18 mmol, 33 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-((R)-3-{4-[(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-2,6, N′,N′-tetramethyl-terephthalamide | 0.028 g, 38% | COC1=CC=C(C=C1)N(C1CCN(CC1)[C@@H](CCNC(C1=C(C=C(C(=O)N(C)C)C=C1C)C)=O)C)CC=1C=NC=CC1C | C35H47N5O3
